US07384970B2
N-{1-(S)-[1-(R)-Benzyloxymethyl-2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-2-cyclohexyl-ethyl}-3-methoxy-benzamide.
A sample of {1-(S)-[1-(R)-Benzyloxymethyl-2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-2-cyclohexyl-ethyl}-carbamic acid tert-butyl ester (210 mg, 0.34 mmol) was treated with a mixture of trifluoroacetic acid, dichloromethane and water (45:45:10) and allowed to age for 2 hours. The solvent was then removed by rotary evaporation. The resulting oil was treated with m-anisic acid (75 mg, 0.49 mmol), HATU (187 mg, 0.49 mmol) and dichloromethane (2 mL). The reaction was then treated with diisopropylethylamine (245 mg, 1.9 mmol) and stirred for 2 hours. The reaction was diluted with ethyl acetate, extracted with saturated aqueous NaHCO3 twice, dried over MgSO4 and the solvent was removed. The resulting oil was purified over silica gel using a gradient of 0 to 100% ethyl acetate in hexane to afford 195 mg (87%) of the title material; 1H NMR (CDCl3, 400 MHz) δ 0.84-1.03 (m, 2H), 1.06-1.22 (m, 3H), 1.32-1.45 (m, 1H), 1.58-1.87 (m, 7H), 2.92 (dd, 1H, J1=J2=8.2), 3.13-3.25 (m, 2H), 3.31-3.46 (m, 2H), 3.54 (dd, 1H, J1=54.2, J2=9.4), 3.68 (dd, 1H, J1=2.4, J2=9.3), 3.84 (s, 3H), 4.26-4.36 (m, 1H), 4.53 (dd, 2H, J1=11.8, J2=26.0), 4.65-4.74 (m, 1H), 6.46 (dd, 1H, J1=4.1, J2=8.4), 6.46 (d, 1H, J=8.3), 6.69-6.83 (m, 2H), 7.02-7.09 (m, 1H), 7.27-7.39 (m, 7H); HPLC-MS calcd. for C35H42FN3O4 (M+H+) 587.3, found 587.5.

reactant | {1-(S)-[1-(R)-Benzyloxymethyl-2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-2-cyclohexyl-ethyl}-carbamic acid tert-butyl ester | 0.34 mmol, 210 mg | C(C)(C)(C)OC(N[C@@H](CC1CCCCC1)C(N[C@H](CN1CCC2=CC(=CC=C12)F)COCC1=CC=CC=C1)=O)=O | C32H44FN3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | m-anisic acid | 0.49 mmol, 75 mg | C(C1=CC(=CC=C1)OC)(=O)O | C8H8O3
reactant | HATU | 0.49 mmol, 187 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 1.9 mmol, 245 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-{1-(S)-[1-(R)-Benzyloxymethyl-2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylcarbamoyl]-2-cyclohexyl-ethyl}-3-methoxy-benzamide | 195 mg, 87% | C(C1=CC=CC=C1)OC[C@@H](CN1CCC2=CC(=CC=C12)F)NC(=O)[C@H](CC1CCCCC1)NC(C1=CC(=CC=C1)OC)=O | C35H42FN3O4
